US06610707B1
Trifluoroacetic acid (25 ml) was added to a solution of tert-butyl (2S)-2-{5-[(1-[(benzyloxy)carbonyl]-4-piperidyloxy)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate (1.73 g) [see Preparation 94] in dichloromethane (25 ml) at 0° C. The reaction mixture was stirred for 2 hrs at room temperature, after which time the solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The organic layer was separated and washed with 2N aqueous hydrochloric acid and brine, the combined aqueous layers were then neutralised with saturated sodium hydrogen carbonate and the product re-extracted with ethyl acetate. The organic layer was then separated, dried over magnesium sulphate and the solvent removed under reduced pressure to afford benzyl 4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate (1.33 g) as a brown oil.

reactant | Trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (2S)-2-{5-[(1-[(benzyloxy)carbonyl]-4-piperidyloxy)methyl]-1,2,4-oxadiazol-3-yl}-1-piperidinecarboxylate | 1.73 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC1=NC(=NO1)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C26H36N4O6
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | benzyl 4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate | 1.33 g | N1[C@@H](CCCC1)C1=NOC(=N1)COC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H28N4O4
